US07034015B2
N-(5-Bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(2,3-dihydroxyproyl)succinamide (Compound 212)
The reaction and work up was conducted as described in the preparation of compound 211. Starting compounds were N-(5-bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid (600 mg, 1.16 mmol) (prepared as described in WO 01/05746) and 3-amino-1,2-propane-diol (117 mg, 1.28 mmol). The crude product was purified by flash chromatography using EtOAc followed by EtOAC/MeOH 95:5 as the eluent to afford the title compound as a solid.

reactant | N-(5-bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid | 1.16 mmol, 600 mg | BrC=1C=CC(=C(C1)NC(CCC(=O)O)=O)NC1=CC(=C(C=C1)C(C1=C(C=CC=C1)C)=O)Cl | C24H20BrClN2O4
reactant | 3-amino-1,2-propane-diol | 1.28 mmol, 117 mg | NCC(CO)O | C3H9NO2
product | N-(5-Bromo-2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(2,3-dihydroxyproyl)succinamide | BrC=1C=CC(=C(C1)NC(CCC(=O)NCC(CO)O)=O)NC1=CC(=C(C=C1)C(C1=C(C=CC=C1)C)=O)Cl | C27H27BrClN3O5
